* A Collection of Potentiometers
* ==============================
* Helmut Sennewald,                          12/23/2003         V1.1
*
*    Models:
*       potentiometer    old style LTSPICE potentiometer
*       pot_lin          k*x
*       pot_pow          x^k
*       pot_plog         exp(k*(1-x))
*       pot_nlog         exp(kx)
*       pot_tab          table(x)
*       pot_piher_plog   piecewise linear, datasheet
*       pot_radiohm_plog piecewise linear, measured
*
*
*       1 ____    1.0=wiper
*             |
*            | |  3
*            | |<---- wiper 0..1
*            | |
*       Rtap | |  Tap
*            | |
*       2 ____|   0.0=wiper
*
*
*     RTOT = total resistance
*     WIPER = ratio of travel of the wiper
*     RTAP = reference resistance at wiper=Tap
*            It is needed only for pot_plog, pot_nlog and pot_pow.
*            RTAP is measured between pin-2 and wiper.
*     TAP = ratio of travel when Rtap is reached



*--------------------- The Linear Potentiometer ---------------------
*
* 1.0 <----- 0.0
*        |3
*      __V__
*  1--|_____|--2
*
*  o--R1-o-R2--o
*
.SUBCKT potentiometer 1 2 3
* Parameters: Rtot, wiper
.param w=limit(0.01m,wiper,0.99999)
*
R1 1 3 {Rtot*(1-w)}
R2 3 2 {Rtot*w}
.ENDS
*

.SUBCKT pot_lin 1 2 3
.param w=limit(0.01m,wiper,0.99999)
*
R1 1 3 {Rtot*(1-w)}
R2 3 2 {Rtot*w}
.ENDS



*------------- The Ideal Power Function Potentiometer ---------------
*
* It is interesting to know that the power log. curve is a
* good fit to so called "log"-potentiometers, because most of
* them have not true logarithm dependency in reality.
*
* 1.0 <----- 0.0
*        |3
*      __V__
*  1--|_____|--2
*
*  o--R1-o-R2--o
*
*  RTAP is resistance at travel TAP
*  Example: Rtot=10k, R=1k @ 0.5   (half way)
*           RTAP=1k, TAP=0.5
*  RTAP and TAP define a point of the curve resistance versus ratio.
*
.SUBCKT pot_pow 1 2 3
* Parameters: Rtot, wiper, Rtap, Tap
.param w=limit(0.01m,wiper,0.99999)
*
.param pwrexp=ln(RTAP/RTOT)/ln(TAP)
.param ratio=w**pwrexp
*
R1 1 3 {Rtot*(1-ratio)}
R2 3 2 {Rtot*(ratio)}
.ENDS



*---------- The Ideal Positive Logarithm Potentiometer --------------
*
* 1.0 <----- 0.0
*        |3
*      __V__
*  1--|_____|--2
*
*  o--R1-o-R2--o
*
*  RTAP is resistance at travel TAP
*  Example: Rtot=10k, R=1 @ 0.001
*           RTAP=1, TAP=0.001
*  RTAP and TAP define a point of the curve resistance versus ratio.
*
.SUBCKT pot_plog 1 2 3
* Parameters: Rtot, wiper, Rtap, Tap
.param w=limit(0.01m,wiper,0.99999)
*
.param pwrexp=ln(RTAP/RTOT)/(1-TAP)
.param ratio=exp(pwrexp*(1-w))
*
R1 1 3 {Rtot*(1-ratio)}
R2 3 2 {Rtot*(ratio)}
.ENDS



*---------- The Ideal Negative Logarithm Potentiometer -------------
*
* 1.0 <----- 0.0
*        |3
*      __V__
*  1--|_____|--2
*
*  o--R1-o-R2--o
*
*  RTAP is resistance at travel TAP
*  Example: Rtot=10k, R=1 @ 0.999
*           RTAP=1, TAP=0.999
*  RTAP and TAP define a point of the curve resistance versus ratio.
*
.SUBCKT pot_nlog 1 2 3
* Parameters: Rtot, wiper, Rtap, Tap
.param w=limit(0.01m,wiper,0.99999)
*
.param pwrexp=ln(RTAP/RTOT)/(TAP)
.param ratio=exp(pwrexp*(w))
*
R1 1 3 {Rtot*(1-ratio)}
R2 3 2 {Rtot*(ratio)}
.ENDS



* ------------ The Arbtrary(Table) Potentiometer --------------------
*
* 1.0 <----- 0.0
*        |3
*      __V__
*  1--|_____|--2
*
*  o--R1-o-R2--o
*
.SUBCKT pot_tab 1 2 3
* Parameters: Rtot, wiper
.param w=limit(0.01m,wiper,0.99999)
*
.param ratio=TABLE(w, 0,0.01m, 0.1, 0.001, 0.2, 0.003, 0.3, 0.01,
+ 0.4, 0.05, 0.5, 0.1, 0.6, 0.2, 0.7, 0.35,
+ 0.8, 0.6, 0.9, 0.9, 0.95, 0.98, 1.0, 0.99999)
*
R1 1 3 {Rtot*(1-ratio)}
R2 3 2 {Rtot*(ratio)}
.ENDS



*---------- A Positive "Logarithm" Potentiometer from PIHER ---------
*
* PIHER shows three piecewise linear functions in their datasheet
* for the resistance dependenncy.
*
* 1.0 <----- 0.0
*        |3
*      __V__
*  1--|_____|--2
*
*  o--R1-o-R2--o
*
.SUBCKT pot_piher_plog 1 2 3
* Parameters: Rtot, wiper
.param w=limit(0.01m,wiper,0.99999)
*
.param ratio=TABLE(w, 0,0.01m, 0.05,0.01m, 0.33,0.04, 0.66,0.16,
+ 0.95,0.99, 1.0,0.99999)
*
R1 1 3 {Rtot*(1-ratio)}
R2 3 2 {Rtot*(ratio)}
.ENDS



*--------- A Positive "Logarithm" Potentiometer from RADIOHM. -------
*
* RADIOHM shows a smooth "logarithm/power" curve in the datasheet.
* My own measurements on a 100kOhm stero pot has shown that it
* consists of five piecwise linear sections.
*
* 1.0 <----- 0.0
*        |3
*      __V__
*  1--|_____|--2
*
*  o--R1-o-R2--o
*
.SUBCKT pot_radiohm_plog 1 2 3
* Parameters: Rtot, wiper
.param w=limit(0.01m,wiper,0.99999)
*
.param ratio=TABLE(w, 0,0.01m, 0.1,0.01m, 0.3,0.012, 0.42,0.047,
+ 0.52,0.105, 0.64,0.25, 0.95,0.99999, 1.0,0.99999)
*
R1 1 3 {Rtot*(1-ratio)}
R2 3 2 {Rtot*(ratio)}
.ENDS
